US07534914B2
STEP 1. Methyl 5-chloro-2-{[(5-chloropyridin-2-yl)(methyl)amino]methyl}benzoate
To s suspension of sodium hydride (60% dispersion in mineral oil, 46 mg, 1.1 mmol) in terahydorofuran (4 ml) was added 5-chloro-N-methylpyridin-2-amine (128 mg, 1.14 mmol) in tetrahydrofuran (5 ml) at room temperature and stirred for 30 min. The mixture was added methyl 2-(bromomethyl)-5-chlorobenzoate (250 mg, 0.95 mmol) in tetrahydrofuran (5 ml) at room temperature and stirred at 80° C. for 8 hr. After cooling to room temperature, the mixture was added water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (10/1) to afford 102 mg (33%) of the title compound:

reactant | sodium hydride | 1.1 mmol, 46 mg | [H-].[Na+]
reactant | 5-chloro-N-methylpyridin-2-amine | 1.14 mmol, 128 mg | ClC=1C=CC(=NC1)NC | C6H7ClN2
reactant | methyl 2-(bromomethyl)-5-chlorobenzoate | 0.95 mmol, 250 mg | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Methyl 5-chloro-2-{[(5-chloropyridin-2-yl)(methyl)amino]methyl}benzoate | 102 mg, 33% | ClC=1C=CC(=C(C(=O)OC)C1)CN(C)C1=NC=C(C=C1)Cl | C15H14Cl2N2O2
